**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 5
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/common/model_files/dut.cir

** Start testbenches

********************* dut testbench 21_0 *********************
v_gs_ac_21_0 g_21_0 g_ac_21_0 DC 0 AC 1
e_gs_21_0 g_ac_21_0 0 v_sweep 0 1
v_ds_21_0 d_21_0 0 0.0
v_s_21_0 s_21_0 0 0
v_bs_21_0 b_21_0 0 0.0
x_21_0 d_21_0 g_21_0 s_21_0 b_21_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 21_2 *********************
v_gs_ac_21_2 g_21_2 g_ac_21_2 DC 0 AC 1
e_gs_21_2 g_ac_21_2 0 v_sweep 0 1
v_ds_21_2 d_21_2 0 0.0
v_s_21_2 s_21_2 0 0
v_bs_21_2 b_21_2 0 -1.0
x_21_2 d_21_2 g_21_2 s_21_2 b_21_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 0.386117316792547
alterparam dut a1 = 0.0053190225605300265
alterparam dut a2 = 0.6375109143007773
alterparam dut acde = 1.269034145883945
alterparam dut ags = 1.3542416207435275
alterparam dut bin_lketa = 0.3741552451978229
alterparam dut bin_pketa = 0.9168884004481583
alterparam dut bin_ppclm = 0.9613077153544459
alterparam dut bin_prdsw = 0.9784966515270783
alterparam dut bin_pvsat = 0.892821597037713
alterparam dut bin_wk3 = 0.6457797776080957
alterparam dut bin_wk3b = 0.7306360498026504
alterparam dut bin_wketa = 0.879179818293929
alterparam dut cf = 1.452327736400499e-10
alterparam dut cgdl = 1.7134012796320788e-10
alterparam dut cgdo = 2.2784325426084542e-10
alterparam dut ckappas = 19.698876412505935
alterparam dut clc = 1.726170571267708e-07
alterparam dut cle = 0.27592111269890474
alterparam dut dlc = 1*-2.2531908524475843e-08
alterparam dut drout = 1.6980856486365692
alterparam dut dsub = 0.4067761143759192
alterparam dut dvt0 = 19.405434692539988
alterparam dut dvt0w = 5.409354372603719
alterparam dut dvt1 = 0.14544145290254248
alterparam dut dvt1w = 7741316.133274322
alterparam dut dvt2 = 0.01720203679255053
alterparam dut dvt2w = 1*-0.01157523444243811
alterparam dut dwg = 7.89099319476133e-08
alterparam dut eta0 = 0.9278309530726956
alterparam dut etab = 1*-0.020219036190183948
alterparam dut k1 = 1.021754151044232
alterparam dut k2 = 0.04599198482826425
alterparam dut k3 = 1*-9.237001610013522
alterparam dut k3b = 19.82048011033816
alterparam dut keta = 1*-0.027894664841315683
alterparam dut lint = 3.245703423093451e-08
alterparam dut ll = 3.112525915400232e-14
alterparam dut lwl = 7.43613186107324e-20
alterparam dut moin = 20.723979912910277
alterparam dut ndep = 1.517164883870969e+16
alterparam dut nfactor = 0.40737499184836823
alterparam dut ngate = 5.735656392501534e+19
alterparam dut noff = 0.8293060574497333
alterparam dut pclm = 1.1063015071760472e-08
alterparam dut pdiblc1 = 6.874621702906299e-07
alterparam dut pdiblc2 = 4.0231098578815936e-05
alterparam dut pdiblcb = 1*-0.80035639841574
alterparam dut pvag = 3.487542781360597
alterparam dut rdsw = 635.1139523319781
alterparam dut toxp = 4.282506002185301e-09
alterparam dut u0 = 249.88393429596113
alterparam dut ua = 7.409663602380735e-10
alterparam dut ub = 3.0627279738306037e-20
alterparam dut uc = 3.614962406184091e-09
alterparam dut voff = 1*-0.13914328754052502
alterparam dut voffcv = 0.17156418894342174
alterparam dut voffl = 1*-8.663647912108734e-08
alterparam dut vsat = 192793.41255222654
alterparam dut vth0 = 1*-1.0881458356340663
alterparam dut w0 = 6.407201860360875e-07
alterparam dut wint = 1.4028685781178852e-07
alterparam dut ww = 1*-2.7852223328470195e-14
alterparam dut wwl = 5.992603979716485e-20
alterparam dut xpart = 0.7314485243630042
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_21_2) i(v_s_21_0)

** Write the header of the results file.
echo "vgs,cgs_21_2,cgs_21_0" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_04_09_2024-19_47_37/simulation_files/ac_point_dc_sweep_5.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgs_21_0 = abs(imag(i(v_s_21_0)))/2*pi*10000.0
    let cgs_21_2 = abs(imag(i(v_s_21_2)))/2*pi*10000.0

    echo "$val,$&cgs_21_2,$&cgs_21_0" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_04_09_2024-19_47_37/simulation_files/ac_point_dc_sweep_5.csv
end

.endc
********** End of control section **********

.end